US09334269B2
To a solution of 2-chloro-4-(3-(2,4-dichlorophenoxy)azetidin-1-yl)pyrimidine (0.200 g, 609 mmoL) and 4-amino-N-methylbenzamide (0.109 g, 0.731 mmoL) in dimethyl acetamide (5 mL) was added cesium carbonate (300 mg, 9.14 mmol) and the reaction mixture was degassed for 15 min. Tris(dibenzylideneacetone)dipalladium (0) [Pd2(dba)3](0.030 g, 0.03 mmoL) and 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl [BINAP] (0.020 g, 0.03 mmoL) were added and the mixture was irradiated in the microwave at 120° C. for 1 h. Then the reaction was quenched with water and extracted with EtOAc (2×25 mL). The organic extracts were washed with brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. Purification by silica gel column chromatography provided 4-(4-(3-(2,4-dichlorophenoxy)azetidin-1-yl)pyrimidin-2-ylamino)-N-methylbenzamide (0.077 g, 29%) as solid. Observed mass (M+1): 443.9.

reactant | 2-chloro-4-(3-(2,4-dichlorophenoxy)azetidin-1-yl)pyrimidine | 0.200 g | ClC1=NC=CC(=N1)N1CC(C1)OC1=C(C=C(C=C1)Cl)Cl | C13H10Cl3N3O
reactant | 4-amino-N-methylbenzamide | 0.109 g | NC1=CC=C(C(=O)NC)C=C1 | C8H10N2O
reactant | cesium carbonate | 9.14 mmol, 300 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethyl acetamide | 5 mL | CC(=O)N(C)C | C4H9NO
product | 4-(4-(3-(2,4-dichlorophenoxy)azetidin-1-yl)pyrimidin-2-ylamino)-N-methylbenzamide | 0.077 g, 29% | ClC1=C(OC2CN(C2)C2=NC(=NC=C2)NC2=CC=C(C(=O)NC)C=C2)C=CC(=C1)Cl | C21H19Cl2N5O2
